US05589478
To a solution of 4,6-dichloro-5-(4-methylphenyl)pyrimidine (4.14 g) in ether (20 ml) is added 27% ammonia-ethanol solution (30 ml), and the reaction mixture is reacted at room temperature in a sealed tube for three days. The mixture is concentrated under reduced pressure, and the residue is purified by silica gel column chromatography (solvent; hexane/ethyl acetate=(10:1)~ethyl acetate) to give 6-chloro-5-(4-methylphenyl)pyrimidin-4-amine (1.89 g).

reactant | 4,6-dichloro-5-(4-methylphenyl)pyrimidine | 4.14 g | ClC1=NC=NC(=C1C1=CC=C(C=C1)C)Cl | C11H8Cl2N2
reactant | ammonia ethanol | 30 ml | N.C(C)O
solvent | ether | 20 ml | CCOCC | C4H10O
product | 6-chloro-5-(4-methylphenyl)pyrimidin-4-amine | 1.89 g | ClC1=C(C(=NC=N1)N)C1=CC=C(C=C1)C | C11H10ClN3
